US04565425
A suspension of 29.0 g of methoxymethyl-triphenylphosphonium-chloride in 200 ml of t-butyl methyl ether was treated with 9.7 g of potassium t-butylate at -10° C. within 3 minutes while gassing with argon in a sulphonation flask provided with a mechanical stirrer. The orange suspension was stirred at about 0° C. for 1 hour, then treated dropwise at -10° C. within 10 minutes with a solution of 12.0 g of trans-4-(p-cyanophenyl)cyclohexanecarboxaldehyde in 90 ml of t-butyl methyl ether and stirred at 0° C. for a further 45 minutes. The mixture was subsequently partitioned three times in diethyl ether/water. The organic extracts were washed twice with water, dried over magnesium sulphate, filtered and evaporated. In order to separate triphenylphosphine oxide, the residue was dissolved in ethyl acetate and the solution was diluted with petroleum ether, filtered and evaporated. Chromatographic separation of the yellowish, crystalline residue (16.3 g) on silica gel with ethyl acetate/petroleum ether (vol. 5:95) gave 10.1 g (74%) of p-[trans-4-(2-methoxyvinyl)cyclohexyl]benzonitrile as white crystals.

reactant | methoxymethyl-triphenylphosphonium-chloride | 29.0 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | trans-4-(p-cyanophenyl)cyclohexanecarboxaldehyde | 12.0 g | C(#N)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C=O | C14H15NO
solvent | t-butyl methyl ether | 200 ml | COC(C)(C)C | C5H12O
solvent | t-butyl methyl ether | 90 ml | COC(C)(C)C | C5H12O
product | p-[trans-4-(2-methoxyvinyl)cyclohexyl]benzonitrile | 10.1 g, 74% | COC=C[C@@H]1CC[C@H](CC1)C1=CC=C(C#N)C=C1 | C16H19NO
